US09334278B2
A mixture of 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid tert-butylamide (0.221 g, 0.5 mmol), 3-methyl-isothiazol-5-ylamine hydrochloride (0.151 g, 1 mmol), tris(dibenzylideneacetone)dipalladium (0.023 g, 0.025 mmol), racemic BINAP [rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl](0.047 g, 0.075 mmol) and sodium tert-butoxide (0.144 g, 1.5 mmol) in toluene (3.5 mL), under an argon atmosphere, was heated and stirred in a sealed vessel at 110° C. for 19 h. The cooled reaction mixture was diluted with ethyl acetate, washed once with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by chromatography (silica, 75% ethyl acetate in hexanes, then repeated with 50% ethyl acetate in hexanes, and again with 40% ethyl acetate I hexanes) gave 3-methyl-2-(3-methyl-isothiazol-5-ylamino)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid tert-butylamide (0.101 g, 43%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm −0.08 (s, 9H), 0.84 (t, J=8.0 Hz, 2H), 1.55 (s, 9H), 2.35 (s, 3H), 2.67 (s, 3H), 3.53 (t, J=8.0 Hz, 2H), 5.61 (s, 2H), 6.94 (s, 1H), 7.34 (s, 1H), 8.25 (s, 1H), 10.49 (s, 1H). MS (EI/CI) m/z: 475 [M+H].

reactant | 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid tert-butylamide | 0.5 mmol, 0.221 g | C(C)(C)(C)NC(=O)C1=CN(C2=NC(=C(N=C21)Br)C)COCC[Si](C)(C)C | C18H29BrN4O2Si
reactant | 3-methyl-isothiazol-5-ylamine hydrochloride | 1 mmol, 0.151 g | Cl.CC1=NSC(=C1)N
reactant | BINAP | 0.075 mmol, 0.047 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 1.5 mmol, 0.144 g | CC(C)([O-])C.[Na+]
solvent | toluene | 3.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.025 mmol, 0.023 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-methyl-2-(3-methyl-isothiazol-5-ylamino)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid tert-butylamide | 0.101 g, 43% | C(C)(C)(C)NC(=O)C1=CN(C2=NC(=C(N=C21)NC2=CC(=NS2)C)C)COCC[Si](C)(C)C | C22H34N6O2SSi
